US07064147B2
(S)-3-Amino-5,5-dimethyl-octanoic acid hydrochloride:
According to example 1, 3-amino-5,5-dimethyl-octanoic acid tert-butyl ester was treated with 3N HCl to provide 286 mg of the title compound as a solid. 1HNMR (400 MHz; CD3OD): 0.87–0.93 (m, 9H), 1.18–1.31 (m, 4H), 1.51 (dd, 1H, J=4 Hz, 14.4 Hz), 1.62 (dd, 1H, J=6.8 Hz, 14.4 Hz), 2.60 (dd, 1H, J=8 Hz, 17.6 Hz), 2.73 (dd, 1H, J=4 Hz, 7.6 Hz), 3.55–3.60 (m, 1H). MS (APCI), m/z: 188.1 (M+1)+. 186.1 (M−1)+. Anal. Calc'd for C10H21NO2.HCl.0.12H2O: C: 53.17, H: 9.92, N: 6.20, Cl: 15.69; Found: C: 53.19, H: 10.00, N: 6.08, Cl: 15.25. α=+20° (MeOH). MP: 194.2–195.2° C.

reactant | 3-amino-5,5-dimethyl-octanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(CC(CCC)(C)C)N)=O | C14H29NO2
reactant | HCl | 3N | Cl | ClH
product | (S)-3-Amino-5,5-dimethyl-octanoic acid hydrochloride | 286 mg | Cl.N[C@H](CC(=O)O)CC(CCC)(C)C | InChI=1S/C10H21NO2.ClH/c1-4-5-10(2,3)7-8(11)6-9(12)13;/h8H,4-7,11H2,1-3H3,(H,12,13);1H/t8-;/m1./s1
